US05064837
Following the procedure of example 22, react 7-chloro-1-phenyl-3-chloromethyl-2(1H)-quinolone with sodium triazole in DMF. Chromatograph to obtain the major product, 1-phenyl-7-chloro-3-(1H-1,2,4-triazol-1-ylmethyl)-2(1H)-quinolone.

reactant | 7-chloro-1-phenyl-3-chloromethyl-2(1H)-quinolone | ClC1=CC=C2C=C(C(N(C2=C1)C1=CC=CC=C1)=O)CCl | C16H11Cl2NO
reactant | sodium triazole | N1N=NC=C1.[Na]
reactant | DMF | CN(C)C=O | C3H7NO
product | 1-phenyl-7-chloro-3-(1H-1,2,4-triazol-1-ylmethyl)-2(1H)-quinolone | C1(=CC=CC=C1)N1C(C(=CC2=CC=C(C=C12)Cl)CN1N=CN=C1)=O | C18H13ClN4O
